US06008230
A mixture of 8-(2-aminobenzoylamino)-3-bromoquinoline (200 mg), acetic anhydride (71.6 mg) and pyridine (139 mg) in ethylene chloride (4 ml) was stirred for 20 hours at ambient temperature. The mixture was diluted with dichloromethane, washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was suspended in hot ethanol and allowed to cool to ambient temperature. The resulting precipitates were collected by filtration to give 8-(2-acetamidobenzoylamino)-3-bromoquinoline (200 mg) as yellow powder.

reactant | 8-(2-aminobenzoylamino)-3-bromoquinoline | 200 mg | NC1=C(C(=O)NC=2C=CC=C3C=C(C=NC23)Br)C=CC=C1 | C16H12BrN3O
reactant | acetic anhydride | 71.6 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 139 mg | N1=CC=CC=C1 | C5H5N
solvent | ethylene chloride | 4 ml | C(CCl)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8-(2-acetamidobenzoylamino)-3-bromoquinoline | 200 mg | C(C)(=O)NC1=C(C(=O)NC=2C=CC=C3C=C(C=NC23)Br)C=CC=C1 | C18H14BrN3O2
